US07741327B2
To a solution containing (S)-2-{4-[2-fluoro-3-(1-hydroxy-1-methyl-ethyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid methyl ester (2.00 g, 0.005 mol) in tetrahydrofuran (20 mL) was treated with an aqueous solution of lithium hydroxide monohydrate (0.5N, 20 mL, 0.010 mol). The mixture was stirred at 25° C. for 2H, and the solvents evaporated. The residue was dissolved in water and washed with diethyl ether, and the diethyl ether layer discarded. The aqueous phase was acidified with dilute hydrochloric acid (pH <2), and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated to afford (S)-2-{4-[2-fluoro-3-(1-hydroxy-1-methyl-ethyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid (1.93 g, 100%) as a fluffy solid.

reactant | (S)-2-{4-[2-fluoro-3-(1-hydroxy-1-methyl-ethyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid methyl ester | 0.005 mol, 2.00 g | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C(=CC=C1)C(C)(C)O)F)=O)=O | C20H26FNO5
reactant | lithium hydroxide monohydrate | 0.010 mol, 0.5N, 20 mL | O.[OH-].[Li+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (S)-2-{4-[2-fluoro-3-(1-hydroxy-1-methyl-ethyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid | 1.93 g, 100% | FC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(C)C)=O)C=CC=C1C(C)(C)O | C19H24FNO5
